US05523475
4-Bromo-3-hydroxy-6-methoxy-2-nitrobenzoic acid
Sodium nitrate (361 mg, 4.25 mmol) was dissolved in water (4 mL) and LaNO3 *6H2O (18 mg, 0.04 mmol) and HCl (12M, 4 mL) were added. The solution was cooled to 0° C. and a slurry of 4-bromo-3-hydroxy-6-methoxybenzoic acid in diethyl ether (20 mL) was added to the reaction mixture in portions during 10 min. After slowly raising the temperature to room temperature the mixture was stirred for 7 h. Extraction between H2O (20 mL) and CH2Cl2 (3×30 mL), drying the organic phase with MgSO4, filtration and evaporation under reduced pressure gave a mixture of products. Purification by silica gel chromatography (HOAc-EtOAc-toluene 1:2:8) gave the title compound (0.6 g). 1H NMR (CD3OD): δ7.57 (s, 1H), 3.85 (s, 3H). MS (EI, 70 eV): m/z (rel. int.) 291/293 (M+, 21/19).

reactant | Sodium nitrate | 4.25 mmol, 361 mg | [N+](=O)([O-])[O-].[Na+]
reactant | HCl | 12M, 4 mL | Cl | ClH
reactant | 4-bromo-3-hydroxy-6-methoxybenzoic acid | BrC1=C(C=C(C(=O)O)C(=C1)OC)O | C8H7BrO4
solvent | water | 4 mL | O | H2O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 4-Bromo-3-hydroxy-6-methoxy-2-nitrobenzoic acid | 0.6 g | BrC1=C(C(=C(C(=O)O)C(=C1)OC)[N+](=O)[O-])O | C8H6BrNO6
